US06667334B1
(R)-3-((S)-2-(4,4-Dimethyl-3-(4-styrylbenzyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetylamino)-3-methylpropionic Acid
The compound was prepared according to the general preparation processes, steps A, B, D, E and J. In step D, tert-butyl (S)-2-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetate was alkylated with 4-chloromethylstilbene. In step J, tert-butyl (R)-3-amino-3-methylpropionate was employed as an amino compound.

reactant | tert-butyl (S)-2-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetate | CC1(NC(N(C1=O)[C@H](C(=O)OC(C)(C)C)CC(C)C)=O)C | C15H26N2O4
reactant | 4-chloromethylstilbene | ClCC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C15H13Cl
reactant | tert-butyl (R)-3-amino-3-methylpropionate | N[C@@H](CC(=O)OC(C)(C)C)C | C8H17NO2
product | (R)-3-((S)-2-(4,4-Dimethyl-3-(4-styrylbenzyl)-2,5-dioxoimidazolidin-1-yl)-2-(2-methylpropyl)acetylamino)-3-methylpropionic Acid | CC1(N(C(N(C1=O)[C@H](C(=O)N[C@@H](CC(=O)O)C)CC(C)C)=O)CC1=CC=C(C=C1)C=CC1=CC=CC=C1)C | C30H37N3O5
